Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, tachycardia, poor PO
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of PTSD
and depression who was recently admitted to the ___ for constellation of symptoms, mainly
palpitations, dizziness, sweating, nausea and vomiting.  The
symptoms started after delivering her baby 3 months ago. She 
lost
close to 45 pounds since then. She came in because of these
persistent symptoms mainly in the morning at rest associated 
with
nausea and vomiting as above.

She was discharged from the ___ 2 weeks ago and was supposed
to follow-up with a specialist of autonomic disease however she
says that the next available appointment was in ___ and she
couldn't keep anything down so she went in to ___.  She
had chest pain and a CTA of chest was negative, and she was 
ruled
out for cardiac ischemic with 2 negative troponins.  They called
___ who declined to accept the patient in transfer due
to insurance issues.  So instead the cardiologist at 
___
has recommended she be transferred to ___.

Of note patient has had numerous admissions to several hospitals
for same complaint. She states that this all first started after
her recent delivery 3 months ago. Pregnancy at the time was
complicated by pre-eclampsia reportedly. Recent TTE showed 
mildly
increased LV wall thickness but otherwise normal. Recent CTA
performed after patient complained of chest pain was 
unremarkable
with exception of incidental finding of medullary sponge kidney.
Incidentally she states that she has had numerous GU infections
in the past. Most recently she was started on Bactrim for 
empiric
treatment of UTI with prelim UCx negative so far. She reports
frequent loose mucousy stool and has had stool studies sent
recently including C diff which is negative, and regular stool 
Cx
as well as Giardia and Crypto which are still pending. During an
admission in ___ she also had plasma and urine metanephrines
sent and found to be wnl. CRP / ESR and TFTs have been normal as
well and repeated again during this admission to ___ 
(see
paperwork in chart). She has received IV hydration while at ___ and reportedly did have improvement in overall heart
rate but continues to have bursts up to 140 on standing. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
PAST MEDICAL / SURGICAL HISTORY
Postpartum depression
Conversion disorder
Preeclampsia
Anxiety
PTSD
Postural Tachycardia     

 
Social History:
___
Family History:
FAMILY HISTORY: 
Mom - h/o SVT
Brother - "enlarged heart"
 
Physical Exam:
Discharge Exam: 

 
Pertinent Results:
___ 08:15AM BLOOD WBC-7.0 RBC-4.25 Hgb-12.2 Hct-36.1 MCV-85 
MCH-28.7 MCHC-33.8 RDW-12.8 RDWSD-39.2 Plt ___
___ 08:15AM BLOOD Glucose-88 UreaN-6 Creat-0.6 Na-142 K-4.7 
Cl-104 HCO3-24 AnGap-14
___ 08:15AM BLOOD Albumin-4.6 Calcium-9.4 Phos-3.5 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ female with the past medical
history noted above who presents from ___ for inpatient
workup of persistent postural tachycardia and concern for
hyperadrenergic state though also concern for conversion d/o and
postpartum depression. 

ACUTE/ACTIVE PROBLEMS:
#Postural tachycardia
#Panic Disorder
#Concern for Post-partum depression
#Paroxysmal dizziness / diaphoresis / palpitations / nausea
#Loose stool-Symptoms have been ongoing for the past 3 months 
without obvious
underlying cause despite quite an extensive workup at ___ and 
___. She has had several admissions for similar 
complaints and workup including
TTE, CTA, plasma and urine metanephrines, CBC, chemistries,
inflammatory markers, thyroid function panel and micro data have
been unrevealing thus far. Patient does have prior history of
conversion disorder, postpartum depression and PTSD, and it is
possible that some of her symptoms at least represent a
somatoform response to stress and anxiety. This patient would 
benefit most from seeing her outpatient providers as planned 
including her PCP (appointment arranged), Autonomic specialist 
at ___, Behavioral health (both at her PCP and through ___ 
center at ___), Cardiology, and Neurology. I have discharged her 
with a small PRN dose of ativan to help with panic episodes 
until she sees her primary provider. She denied SI/HI at the 
time of discharge and did not warrant inpatient psychiatric stay 
per ___ inpatient psychiatric consultation. Initiation of an 
anti-depressant/anti-anxiety agent would be reasonable but would 
be best done by her continuity providers with consideration of 
whether the patient will be breastfeeding or not. At this time 
she is not. Of note, she had several episodes of sinus 
tachycardia with rates as high as 140s but no artrial arrythmia 
was captured on telemetry. These tachycardia episodes coincide 
with emotional lability and a feeling of impending doom per the 
patient. Her BMP did not reveal significant dehydration and she 
was tolerating food at the time of discharge.  

 
Medications on Admission:
None
 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q6H:PRN anxiety/panic attack 
please do not take this medicine and drive and do not take if 
___ are drowsy/sleepy.  
RX *lorazepam 0.5 mg 1 tablet by mouth every six (6) hours Disp 
#*6 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Postural Tachycardia
-Migraine Headaches
-Nausea/Vomiting
-Panic Disorder
-Post-Partum depression

 
Discharge Condition:
Fair
Alert and Oriented x 3
Ambulatory without assistance 

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital with nausea, vomiting, 
diarrhea, palpitations (feeling your heart beating in your 
chest), headache, tachycardia (fast heart rate). We monitored 
___ on the heart monitor and find no concerning arrhythmias. We 
agree with the evaluation and follow-up plan put in place by 
___ earlier this month. When ___ leave 
the hospital ___ should see ___ PCP on ___ at 11:30AM. They 
have also set ___ up to see Behavioral health later that. ___ 
have a neurology and cardiology appointments as well. ___ should 
follow up about your calcified meniningiomas with neurology and 
repeat MRI as planned. ___ should also see the autonomic 
dysfunction expert as planned. The cause of your symptoms is not 
entirely known but it is extremely important that ___ go to 
appointments as planned in order to reach a solution and obtain 
a diagnosis. I am concerned ___ may have post-partum depression 
and anxiety and establishing a mental health provider ___ be 
very important. Dr. ___ psychiatry team) and myself have 
given ___ several resources to help in crisis situation or if 
___ want additional support. ___ should be reassured that your 
labs and heart rhythm were normal during your stay in the 
hospital. It was a pleasure taking care of ___.

M. ___  
 
Followup Instructions:
___